US05872232
N4 -Benzoyl-2'-O-methylcytidine (28 g, 0.077 mol) was evaporated under reduced pressure to an oil with pyridine (400 mL). To the residue was added 4,4'-dimethoxytriphenylmethyl chloride (DMT-Cl, 28.8 g, 0.085 mol) and pyridine (400 mL). The mixture was stirred at 25° C. for 2 h and then quenched by the addition of methanol (10 mL) for 30 min. The mixture was concentrated under reduced pressure and the residue was chromatographed on silica gel (500 g, hexanes-ethyl acetate-triethylamine 60:40:1 and then ethyl acetate-triethylamine 99:1). The appropriate fractions were combined, evaporated under reduced pressure and dried at 40° C./0.2 mmHg for 2 h to give 26 g (74%, 16% from cytidine) of foam; TLC homogenous (Rf 0.45, ethyl acetate); PMR (DMSO) δ 11.3 (H-N4), 8.4-6.9 (H-6, H-5, Bz), 5.95 (H-1'), 5.2 (HO-3'), 3.7 (s, 6, CH3O-trit.), 3.5 (s, 3, CH3O-2').

reactant | N4 -Benzoyl-2'-O-methylcytidine | 0.077 mol, 28 g | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2[C@H](OC)[C@H](O)[C@@H](CO)O2)C=C1)=O | C17H19N3O6
reactant | 4,4'-dimethoxytriphenylmethyl chloride | 0.085 mol, 28.8 g | COC1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=C(C=C3)OC)Cl | C21H19ClO2
solvent | pyridine | 400 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 400 mL | N1=CC=CC=C1 | C5H5N
product | cytidine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O5
